US07166598B2
To a suspension of 3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenylboroic acid (0.58 g) and 4-bromopyridine hydrochloride (0.39 g) in a mixture of sodium carbonate aqueous solution (2M, 6 ml) and 1,2-dimethoxyethane (4 ml) was added tetrakis(triphenylphosphine)palladium (0.116 g) under nitrogen atmosphere. After stirring at 80° C. for 12 hours, the mixture was quenched with water and extracted with ethyl acetate twice. The combined extracts were dried over magnesium sulfate, evaporated, and purified with column chromatography (silica gel, ethyl acetate:hexane=1:3–2:1–1:2) to give 4-[3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenyl]pyridine (0.61 g) as a syrup.

reactant | 3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenylboroic acid | 0.58 g | CC1(N=C(OC1)C=1C=C(C=C(C1)C(F)(F)F)OB(O)O)C | C12H13BF3NO4
reactant | 4-bromopyridine hydrochloride | 0.39 g | Cl.BrC1=CC=NC=C1
solvent | sodium carbonate | 2M, 6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.116 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[3-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-5-(trifluoromethyl)phenyl]pyridine | 0.61 g | CC1(N=C(OC1)C=1C=C(C=C(C1)C(F)(F)F)C1=CC=NC=C1)C | C17H15F3N2O
